US03931412
Example 8 -- Preparation of 2,2,2-Trichloroethylidene Bispropionate
Trichloroacetaldehyde (0.2 mol) and propionic anhydride (0.2 mol) were reacted in the presence of 0.2 ml 70 percent perchloric acid by the procedure of Example 4. The resulting 2,2,2-trichloroethylidene bispropionate product (13 g) distilled at 65°-66°C. (0.1 mm/Hg). Elemental analysis for C8H11Cl304 showed: %Cl, calc. 38.3, found 38.1.

reactant | Trichloroacetaldehyde | 0.2 mol | ClC(C=O)(Cl)Cl | C2HCl3O
reactant | propionic anhydride | 0.2 mol | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | perchloric acid | 0.2 ml | Cl(=O)(=O)(=O)O | ClHO4
product | 2,2,2-Trichloroethylidene Bispropionate | C(CC)(=O)OC(C(Cl)(Cl)Cl)OC(CC)=O | C8H11Cl3O4
